US06399627B1
To a solution of 2′-tert-butylaminosulfonyl-4-amino-[1,1′]-biphenyl (139 mg, 0.46 mmol) in 4 ml anhydrous dichloromethane was added a solution of 2M trimethylaluminum in hexane (0.69 ml, 1.38 mmol). Reaction was stirred at room temperature for 20 minutes to which a solution of crude methyl (2Z)-3-(3-cyanophenyl)-4-methylpent-2-enoate (105 mg, 0.46 mmol) in 2 ml anhydrous dichloromethane was added. Reaction was stirred at room temperature overnight. Reaction was quenched with 5 ml 1N HCl after which an additional 20 ml dichloromethane was added. Organic was washed with 2×20 ml water, dried over magnesium sulfate, filtered and concentrated to give (2Z)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4-methylpent-2-enamide (190 mg, 82%) as an off-white foam which was sufficiently pure to be used without further purification. ES-MS (M+H): 501.2.

reactant | 2′-tert-butylaminosulfonyl-4-amino-[1,1′]-biphenyl | 0.46 mmol, 139 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)N | C16H20N2O2S
reactant | trimethylaluminum | 2M | C[Al](C)C
reactant | hexane | 1.38 mmol, 0.69 ml | CCCCCC | C6H14
reactant | methyl (2Z)-3-(3-cyanophenyl)-4-methylpent-2-enoate | 0.46 mmol, 105 mg | C(#N)C=1C=C(C=CC1)\C(=C/C(=O)OC)\C(C)C | C14H15NO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2Z)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-4-methylpent-2-enamide | 190 mg, 82% | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(\C=C(\C(C)C)/C1=CC(=CC=C1)C#N)=O | C29H31N3O3S
